US08426437B2
This compound is prepared according to synthesis 25, from 115 mg (0.35 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2), 147 μL (1.05 mmol) of triethylamine and 59 mg (0.42 mmol) of methyl 3-aminopropanoate hydrochloride. After purification by chromatography on silica (eluent dichloromethane/methanol 96/4), 25 mg (18%) of 8-(2-ethoxycarbonyl-ethylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a gray solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.35 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | triethylamine | 1.05 mmol, 147 μL | C(C)N(CC)CC | C6H15N
reactant | methyl 3-aminopropanoate hydrochloride | 0.42 mmol, 59 mg | Cl.NCCC(=O)OC
product | 8-(2-ethoxycarbonyl-ethylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 25 mg, 18% | C(C)OC(=O)CCNS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C16H17N3O5S.C3H6O2/c1-2-24-14(20)6-8-18-25(22,23)10-3-4-13-12(9-10)11-5-7-17-15(11)16(21)19-13;1-2-3(4)5/h3-5,7,9,17-18H,2,6,8H2,1H3,(H,19,21);2H2,1H3,(H,4,5)/p-1
